US05192776
A mixture of 1.5 ml of formic acid and 3.5 ml of acetic anydride was stirred at 55° C. for one hour, cooled, and treated with a solution of 4.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine in 50 ml of diethyl ether. The reaction mixture was then stirred at ambient temperature for three hours. Thereafter, the mixture was poured into 100 ml of water, adjusted to pH 10 by the addition of sodium bicarbonate, and extracted with ethyl acetate. The organic layer was washed with water followed by a saturated solution of sodium chloride and dried over anhydrous magnesium sulfate. Filtration, followed by evaporation of the solvent afforded an oil which was purified by means of high pressure liquid chromatography (silica gel; elution with ethyl acetate) to yield 4.0 g (91%) of 1-formyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine, m.p. 32°-34° C.

reactant | formic acid | 1.5 ml | C(=O)O | CH2O2
reactant | acetic | 3.5 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 4.0 g | FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | C11H10F5NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 1-formyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 4.0 g, 91% | C(=O)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C12H10F5NO2
